US07179823B1
A mixture of methyl 5-trifluoromethanesulfonyloxy-3-pyridinecarboxylate (18.00 g), phenylboronic acid (7.88 g), tetrakis(triphenylphosphine)palladium (3.01 g), sodium carbonate (13.51 g), ethanol (80 ml), water (80 ml) and toluene (500 ml) was refluxed overnight under an argon atmosphere. The reaction mixture was poured into water, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The residue was subjected to silica gel column chromatography to obtain ethyl 5-phenyl-3-pyridinecarboxylate (8.63 g, yield 60%) as a colorless oily substance from the fraction eluted with ethyl acetate.

reactant | methyl 5-trifluoromethanesulfonyloxy-3-pyridinecarboxylate | 18.00 g | FC(S(=O)(=O)OC=1C=C(C=NC1)C(=O)OC)(F)F | C8H6F3NO5S
reactant | phenylboronic acid | 7.88 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 13.51 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | 80 ml | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium | 3.01 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 80 ml | O | H2O
product | ethyl 5-phenyl-3-pyridinecarboxylate | 8.63 g, yield 60% | C1(=CC=CC=C1)C=1C=C(C=NC1)C(=O)OCC | C14H13NO2
